US06939886B2
{[6-(1-Methyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile
The title compound was prepared as a solid (0.412 g, 83%) from {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile using MeI and the procedure from step 4 of Example 2; 1H NMR (DMSO-d6) δ 0.74 (t, J=7.5 Hz, 3H), 1.07-1.27 (m, 4H), 1.47-1.65 (m, 2H), 2.68 (t, J=8.3 Hz, 2H), 3.59 (s, 3H), 5.34 (s, 2H), 7.08 (t, J=8.3 Hz, 1H), 7.19 (t, J=8.3 Hz, 1H), 7.34 (dd, J=1.5, 9.0 Hz, 1H), 7.48 (d, J=9.0 Hz, 1H), 7.53-7.66 (m, 3H), 7.92-8.08 (m, 3H); mass spectrum [(+) ESI], m/z 383 (M+H)+.

reactant | {[6-(3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | C(CCCC)C1=C(NC2=CC=CC=C12)C=1C=C2C=CC(=CC2=CC1)OCC#N | C25H24N2O
reactant | MeI | CI | CH3I
product | {[6-(1-Methyl-3-pentyl-1H-indol-2-yl)-2-naphthyl]oxy}acetonitrile | CN1C(=C(C2=CC=CC=C12)CCCCC)C=1C=C2C=CC(=CC2=CC1)OCC#N | C26H26N2O
